US07838675B2
i) tert-Butyl [1-(aminosulfonyl)azetidin-3-yl]carbamate
A solution of tert-butyl azetidin-3-ylcarbamate hydrochloride (prepared according to J. Antibiot. 1986, 39, 1243-1256, 0.755 g), Proton-Sponge® (0.85 g) and sulfamide (0.42 g) in dioxane (23 ml) was heated at reflux for 48 h. The residue was partitioned between H2O and EtOAc, and the aqueous layer then extracted with further EtOAc (×4). The combined organic extracts were washed quickly with 2M aqueous hydrochloric acid (×3) then with saturated aqueous sodium bicarbonate, H2O and saturated aqueous sodium chloride, dried with sodium sulfate, filtered and evaporated to afford the subtitle compound as a pale brown powder.

reactant | tert-butyl azetidin-3-ylcarbamate hydrochloride | 0.755 g | Cl.N1CC(C1)NC(OC(C)(C)C)=O
reactant | Proton-Sponge | CN(C)C1=CC=CC2=C1C(=CC=C2)N(C)C | C14H18N2
reactant | sulfamide | 0.42 g | S(=O)(=O)(N)N | H4N2O2S
solvent | dioxane | 23 ml | O1CCOCC1 | C4H8O2
product | tert-Butyl [1-(aminosulfonyl)azetidin-3-yl]carbamate | NS(=O)(=O)N1CC(C1)NC(OC(C)(C)C)=O | C8H17N3O4S
